US09193935B2
16.2: 2-((6E)-Dodeca-2.6-dien-2-yl)naphthalene
Starting from (1-(2-naphthyl)ethyltriphenylphosphonium bromide (4.50 g, 9.05 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 5.7 mL, 9.05 mmol, 1.0 equiv.) and (E)-dec-4-enal (2.09 g, 13.6 mmol, 1.5 equiv.), and after stirring the mixture at 25° C. for 3 h, 1.16 g (44%) of the title compound as a light yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | 1-(2-naphthyl)ethyltriphenylphosphonium bromide | 9.05 mmol, 4.50 g, 1.0 equiv. | [Br-].C1=C(C=CC2=CC=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 9.05 mmol, 1.6 M, 5.7 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-dec-4-enal | 13.6 mmol, 2.09 g, 1.5 equiv. | C(CC\C=C\CCCCC)=O | C10H18O
product | 2-((6E)-Dodeca-2.6-dien-2-yl)naphthalene | 1.16 g, 44% | CC(=CCC\C=C\CCCCC)C1=CC2=CC=CC=C2C=C1 | C22H28
